US08865704B2
trans-4-(3-Methyl-2-oxo-6-trifluoromethyl-2,3-dihydro-benzoimidazol-1-ylmethyl)-cyclohexanecarboxylic acid
trans-4-(3-Methyl-2-oxo-6-trifluoromethyl-2,3-dihydro-benzoimidazol-1-ylmethyl)cyclohexanecarboxylic acid methyl ester (0.93 g, 2.44 mmol) were dissolved in THF/H2O (9 ml, 2/1). LiOH (129 mg, 5.4 mmol) was added and the mixture stirred at room temperature over night. The THF was evaporated with the formation of a white solid which was collected by filtration. 0.82 g (yield 94%) of the titled compound were isolated.

reactant | trans-4-(3-Methyl-2-oxo-6-trifluoromethyl-2,3-dihydro-benzoimidazol-1-ylmethyl)cyclohexanecarboxylic acid methyl ester | 2.44 mmol, 0.93 g | COC(=O)[C@@H]1CC[C@H](CC1)CN1C(N(C2=C1C=C(C=C2)C(F)(F)F)C)=O | C18H21F3N2O3
reactant | LiOH | 5.4 mmol, 129 mg | [Li+].[OH-]
solvent | THF H2O | 9 ml | C1CCOC1.O
product | trans-4-(3-Methyl-2-oxo-6-trifluoromethyl-2,3-dihydro-benzoimidazol-1-ylmethyl)-cyclohexanecarboxylic acid | 0.82 g, yield 94% | CN1C(N(C2=C1C=CC(=C2)C(F)(F)F)C[C@@H]2CC[C@H](CC2)C(=O)O)=O | C17H19F3N2O3
